US04680300
1-Amino-6-(7-chloro-4-quinolinyl)hexane
17.1 Grams of hexane-1,6-diamine and 4.3 g of 4,7-dichloroquinoline were mixed together and heated to 150° C. for four hours. The reaction was cooled and water and methylene chloride were then added. The organic phase was washed, dried with anhydrous magnesium sulfate and evaporated thereby affording 1-amino-6-(7-chloro-4-quinolinyl)hexane having a melting point of 133°-134°.

reactant | hexane-1,6-diamine | C(CCCCCN)N | C6H16N2
reactant | 4,7-dichloroquinoline | 4.3 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Amino-6-(7-chloro-4-quinolinyl)hexane | NCCCCCCC1=CC=NC2=CC(=CC=C12)Cl | C15H19ClN2
